US06927228B2
(c) 5-(3′-Methylaminobiphenyl-4-ylmethylene)-thiazolidine-2,4,dione
In a manner similar to that of Example 1(f), starting with 2.9 g (13.7 mmol) of 3′-methylaminobiphenyl-4-carboxaldehyde and 1.6 g (13.7 mmol) of 2,4-thiazolidine dione, 3.9 g (91%) of the expected product are obtained.

reactant | 3′-methylaminobiphenyl-4-carboxaldehyde | 13.7 mmol, 2.9 g | CNC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C14H13NO
reactant | 2,4-thiazolidine dione | 13.7 mmol, 1.6 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(3′-Methylaminobiphenyl-4-ylmethylene)-thiazolidine-2,4,dione | 3.9 g, 91% | CNC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C17H14N2O2S
